US06063789
n-Butyllithium (1.45M in hexanes, 51.9 ml) was added dropwise to a stirred solution of diisopropylamine (11.7ml, 83.0 mmol) in dry THF (150 ml) at -5-0° C. and the solution stirred for 30 min. 1,3-Dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) (13.6 ml, 0.11 mmol) was added, the mixture was cooled to -78° C. and a solution of 2-cyano-3-methylthiophene (9.27 g, 75.4 mmol) in THF (20 ml) added dropwise, followed by trimethylsilylchloride (19.1 ml) after 30 sec. The mixture was warmed to room temperature over 30 min., evaporated, taken up in diethyl ether, the solids filtered off and the filtrate evaporated to afford a yellow oil. This was purified by flash chromatography on untreated neutral alumina, eluting with 1% diethyl ether in hexane, to give 2-cyano-3-methyl-5-trimethylsilylthiophene as a clear oil (6.52 g). M+ 195; 360 MHz 1H n.m.r. (CDCl3) 7.02 (1H, s), 2.43 (3H, s), 0.33 (9H, s).

reactant | n-Butyllithium | 1.45M, 51.9 ml | C(CCC)[Li]
reactant | diisopropylamine | 83.0 mmol, 11.7ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-cyano-3-methylthiophene | 75.4 mmol, 9.27 g | C(#N)C=1SC=CC1C | C6H5NS
reactant | trimethylsilylchloride | 19.1 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | 1,3-Dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.11 mmol, 13.6 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-cyano-3-methyl-5-trimethylsilylthiophene | 6.52 g | C(#N)C=1SC(=CC1C)[Si](C)(C)C | C9H13NSSi
